US04962202
(4) 6,7-Dihydro-6-p-methoxybenzylthio-5H-pyrrolo[1,2-a]-imidazole
2-Ethoxy-4-p-methoxybenzylthio-1-pyroline (930 mg) and aminoacetaldehyde dimethylacetal (552 mg) were dissolved in 50 ml of methanol and refluxed under heating for one hour after the addition of acetic acid (315 mg). Ethyl acetate and water were added thereto after cooling and the solution was made alkaline with lN sodium hydroxide aq. solution before subjecting to distribution therebetween. The ethyl acetate phase was washed with water and saturated aqueous solution of NaCl, then the phase was dried over Na2SO4 and concentrated in vacuo. The residue was dissolved in 70 ml of benzene, p-toluenesulfonic acid monohydrate (1 g) was added and refluxed under heating for three hours. The solvent was distilled off in vacuo, then water and ethyl acetate were added to the residue and the solvent was made alkaline with 5% aqueous solution of sodium bicarbonate before carrying out the distribution. After the ethyl acetate phase was washed with water and dried over Na2SO4, the phase was concentrated in vacuo. The residue was purified by column chromatography using a column packed with 25 g of silica gel [eluent: chloroform/methanol (19:1 v/v)] and the fractions containing the objective compound were combined and concentrated in vacuo so that the objective compound, as brown oil, was obtained (yield: 731 mg).

reactant | 2-Ethoxy-4-p-methoxybenzylthio-1-pyroline | 930 mg | C(C)OC1=NCC(C1)SCC1=CC=C(C=C1)OC | C14H19NO2S
reactant | aminoacetaldehyde dimethylacetal | 552 mg | COC(CN)OC | C4H11NO2
reactant | acetic acid | 315 mg | C(C)(=O)O | C2H4O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6,7-Dihydro-6-p-methoxybenzylthio-5H-pyrrolo[1,2-a]-imidazole | COC1=CC=C(CSC2CC=3N(C=CN3)C2)C=C1 | C14H16N2OS
